US06638929B2
To a 500 mL 3-neck round bottom flask fitted with mechanical stirrer, thermometer and addition funnel is added 100 mL dry methylene chloride and 8 mL of oxalyl chloride under nitrogen. This is cooled to −78° C. in a dry ice/acetone bath, then 13.6 mL DMSO in 25 mL dry methylene chloride is added dropwise. After complete addition it is further stirred for 5 minutes. Then 9.87 g of [4-(2-chloroethoxy)-2-(hydroxymethyl)-5-methoxyphenyl]methanol in 10 mL of dry methylene chloride (with enough DMSO added to dissolve the solid) is added dropwise. The reaction mixture is stirred for an additional 30 minutes, then 100 mL of triethylamine is added slowly at −78° C. The solution is stirred for 10 minutes, allowed to warm to room temperature and then 200 mL of ice/water is added. The aqueous layer is extracted with methylene chloride (2×100 mL). The organic layer is dried over MgSO4, filtered and evaporated to give the crude product as a solid. This solid is slurried with cold methanol and filtered, washed with cold methanol, then dried to give 6.37 g of 4-(2-chloroethoxy)-5-methoxyphthalaldehyde as a yellowish solid, m.p. 113-4° C.

reactant | oxalyl chloride | 8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 13.6 mL | CS(=O)C | C2H6OS
reactant | [4-(2-chloroethoxy)-2-(hydroxymethyl)-5-methoxyphenyl]methanol | 9.87 g | ClCCOC1=CC(=C(C=C1OC)CO)CO | C11H15ClO4
reactant | triethylamine | 100 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | 4-(2-chloroethoxy)-5-methoxyphthalaldehyde | 6.37 g | ClCCOC=1C=C(C(C=O)=CC1OC)C=O | C11H11ClO4
